US05177087
1-Acetyl-4-(4-piperidinobenzoyl)piperidine
A mixture consisting of 3.73 g of 1-acetyl-4-(4-fluorobenzoyl)piperidine and 3.0 ml of piperidine was stirred at 100° C. for 24 hours and the reaction mixture was then dissolved in 100 ml of ethyl acetate. The solution was washed with a saturated aqueous solution of sodium hydrogen carbonate and water in that order and the organic layer was dried over anhydrous magnesium sulfate. The solvent was then removed and the residue was recrystallized from ethyl acetatehexane to give 3.7 g of the title compound as colorless crystals melting at 122°-125° C.

reactant | 1-acetyl-4-(4-fluorobenzoyl)piperidine | 3.73 g | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)F)=O | C14H16FNO2
reactant | piperidine | 3.0 ml | N1CCCCC1 | C5H11N
solvent | ethyl acetate | 100 ml | C(C)(=O)OCC | C4H8O2
product | 1-Acetyl-4-(4-piperidinobenzoyl)piperidine | 3.7 g | C(C)(=O)N1CCC(CC1)C(C1=CC=C(C=C1)N1CCCCC1)=O | C19H26N2O2
